US05419966
a. 1,3-Dioxo-2-(6-hydroxyhex-1-yl)-isoindole-5-carboxylic acid (27)
A mixture of 6-aminohexan-1-ol (11.7 g, 10 mmol) and 1,2,4-benzenetricarboxylic anhydride (7.68 g, 4 mmol) was heated to 175°-225° C. for 15 min or until evolution of H2O vapor stops. The melt was poured into water to give a white crystalline solid. The solid was collected by vacuum filtration and dried overnight in vacuo to give 9.1 g (78%) of analytically pure 27.

reactant | 6-aminohexan-1-ol | 10 mmol, 11.7 g | NCCCCCCO | C6H15NO
reactant | 1,2,4-benzenetricarboxylic anhydride | 4 mmol, 7.68 g | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
solvent | water | O | H2O
product | 1,3-Dioxo-2-(6-hydroxyhex-1-yl)-isoindole-5-carboxylic acid | O=C1N(C(C2=CC(=CC=C12)C(=O)O)=O)CCCCCCO | C15H17NO5
